* C:\Users\tutip\Dropbox\EdgeVerter\easyInverter\Altium prj\New_version\GateDriver_board\base_files\Simulations\dead_time\dead_time_circuit.sxcmp
*#SIMETRIX
.GRAPH U5_OUT axisType="auto" persistence=-1 graphName="IO" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true curveLabel="LS_command" disabled=false 
V1 En 0 5
V2 shoot_t_2 0 5 Pulse(0 5 18u 1n 1n error_width)
R1 R1_P Q2_E 1k
V3 LS_in 0 5 Pulse(0 5 2.5u 1n 1n width 5u)
R2 R1_P LS_in R_dt
V4 5V 0 5
R3 R3_P Q1_E 1k
V5 shoot_t_1 0 5 Pulse(0 5 8u 1n 1n error_width)
R4 R3_P HS_in R_dt
R5 R5_P LS_in 5k
R6 R6_P HS_in 5k
A$U10 LS_in U10_OUT HC04D
A$U1 [HS_in En] U1_OUT HC08D
A$U2 [LS_in R1_P] U2_OUT HC02D
Q1 5V R6_P Q1_E 0 BC847
A$U3 [U1_OUT U2_OUT] U3_OUT HC08D
Q2 5V R5_P Q2_E 0 BC847
A$U4 [LS_in En] U4_OUT HC08D
A$U5 [U4_OUT U6_OUT] U5_OUT HC08D
A$U6 [HS_in R3_P] U6_OUT HC02D
A$U7 LS_in U7_OUT HC04D
A$U8 [U3_OUT U5_OUT] U8_OUT HC08D
A$U9 [U10_OUT 0 0] HS_in HC4075
C1 R1_P 0 10p  
C2 R3_P 0 10p  
.GRAPH U1_OUT axisType="auto" persistence=-1 analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true curveLabel="HS_input_masked" disabled=true 
.GRAPH R1_P axisType="auto" persistence=-1 graphName="Signals" curveLabel="LS_rc" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=true 
.GRAPH En axisType="auto" persistence=-1 analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true curveLabel="En" disabled=true 
.GRAPH HS_in axisType="digital" persistence=-1 graphName="IO" curveLabel="HS_in" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH LS_in axisType="digital" persistence=-1 graphName="IO" curveLabel="LS_in" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH U3_OUT axisType="auto" persistence=-1 graphName="IO" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true curveLabel="HS_command" disabled=false 
.GRAPH R5#N axisType="auto" persistence=-1 curveLabel="I_input" analysis="tran|ac|dc" xLog="auto" yLog="lin"  nowarn=true disabled=true 
.GRAPH U8_OUT axisType="auto" persistence=-1 graphName="Error_detection" curveLabel="shoot_through_flag" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.TRAN 0 20u 0 500p ; SWEEP PARAM=width LIN 20 0 5u
.PARAM error_width 500n
.PARAM width 2.5u
.PARAM R_dt 40k

